US07612075B2
B. (S)-1-(4-Aminoquinolin-7-ylmethyl)-4-[3-(4-bromothiophen-2-yl)acryloyl]-3-methyl-piperazin-2-one.
(S)-1-(4-Chloroquinolin-7-ylmethyl)-4-[3-(4-bromothiophen-2-yl)acryloyl]-3-methyl piperazin-2-one (0.50 g, 0.9 mmol) is treated with phenol (˜2 g) and ammonium acetate (0.5 g, 6.4 mmol) and heated to 120° C. in a sealed vessel for 1 hour. Upon cooling, the solution is partitioned between 2 N NaOH and ethyl acetate. The organic layer is separated and washed with fresh 2 N NaOH (3×100 mL) and water. The organic layer is concentrated and the residue is purified by reverse phase HPLC (gradient elution of 10% of 0.1% aqueous TFA/acetonitrile to 100% acetonitrile) to give the title compound (0.22 g, 0.56 mmol). MS m/z: [M+H]+=485, 487, Cl pattern. 1H NMR (CD3OD, 300 MHz) δ8.2-8.4 (m, 2H), 7.7-7.8 (m, 2H), 7.6 (d, 1H), 7.5 (s, 1H), 7.3 (s, 1H), 6.9-7.0 (m, 1H), 6.7 (d, 1H), 5.0-5.1 (m, 1H), 4.9 (q, 2H), 4.3-4.4 (m, 1H), 3.5-3.7 (m, 2H), 3.3-3.4 (m, 2H), 1.5 (d, 3H).

reactant | (S)-1-(4-Chloroquinolin-7-ylmethyl)-4-[3-(4-bromothiophen-2-yl)acryloyl]-3-methyl piperazin-2-one | 0.9 mmol, 0.50 g | ClC1=CC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)C(C=CC=1SC=C(C1)Br)=O)C)=O | C22H19BrClN3O2S
reactant | phenol | ˜2 g | C1(=CC=CC=C1)O | C6H6O
reactant | ammonium acetate | 6.4 mmol, 0.5 g | C(C)(=O)[O-].[NH4+]
product | (S)-1-(4-Aminoquinolin-7-ylmethyl)-4-[3-(4-bromothiophen-2-yl)acryloyl]-3-methyl-piperazin-2-one | 0.56 mmol, 0.22 g | NC1=CC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)C(C=CC=1SC=C(C1)Br)=O)C)=O | C22H21BrN4O2S
